US06268370B1
a) Methyl benzylglycolate
To a solution containing methyl glycolate (2.5 mL, 32 mmol) and trifluoromethyl-sulfonic acid (150 mL) in CH2Cl2 (10 mL) was added benzyl 2,2,2-trichloro-acetimidate (7.0 mL, 37 mmol). After stirring for several min, the mixture was poured into aqueous NaHCO3 and extracted with Et2O. The organic extract was washed with saturated aqueous NaCl, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography, eluting with a solvent gradient of 9-17% EtOAC/Hex to afford the title compound: 1H NMR (CDCl3): d 7.34 (m, 5H); 4.62 (s, 2H); 4.11 (s, 2H); 3.78 (s, 3H).

reactant | methyl glycolate | 32 mmol, 2.5 mL | C(CO)(=O)OC | C3H6O3
reactant | trifluoromethyl-sulfonic acid | 150 mL | FC(F)(F)S(=O)(=O)O | CHF3O3S
reactant | benzyl 2,2,2-trichloro-acetimidate | 37 mmol, 7.0 mL | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl benzylglycolate | C(C1=CC=CC=C1)C(C(=O)OC)O | C10H12O3
